US06455550B1
Preparation of 4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine
To a suspension of 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester (20.17 mmol, 10.52 g) in ethanol (80 mL) and tetrahydrofuran (10 mL) was added aqueous 1.0 N sodium hydroxide (80 mL) at room temperature. The mixture was heated to 50° C. and the resulting clear solution was stirred overnight. Then, the ethanol solution was concentrated and diluted with 50 mL of water and was extracted with 200 mL of ether to remove neutral impurities. The aqueous layer was acidified with 1N HCl and the precipitated white solid was collected by filtration and washed with 200 mL of water and 200 mL of hexane. After air-drying, 8.4 g (82%) of as a white solid: mp 136-140° C. was obtained. 1H NMR, DMSO-d6, (400 MHz) δ 10.64 (s, 1H), 7.73 (d, 1H, J=22 Hz), 7.46-7.59 (m, 5H), 7.22 (d, 2H, J=22 Hz), 4.43-4.48 (m, 1H), 2.87-31.1 (m, 7H), 1.76-2.01 (m 4H), 1.23-1.47 (m, 6H). HR MS (C25H28Cl2N2O5): Obs. mass, 507.1464. Calcd. mass, 507.1454 (M+H).

reactant | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester | 20.17 mmol, 10.52 g | COC([C@@H](NC(=O)C1(CCCC1)CCOC)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C26H30Cl2N2O5
reactant | sodium hydroxide | 1.0 N, 80 mL | [OH-].[Na+]
solvent | ethanol | 80 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine | ClC1=C(C(=CC=C1)Cl)C(=O)NC1=CC=C(C[C@H](NC(=O)C2(CCCC2)CCOC)C(=O)O)C=C1 | C25H28Cl2N2O5
